US07842696B2
DIPEA (263.67 mg, 0.34 mL, 2.04 mmol) was added to a stirred solution of 4-Ethynyl-benzoic acid (100 mg, 0.68 mmol) in DMF (1.5 mL). HOBT (92 mg, 0.68 mmol) and EDCI (156.42 mg, 0.81 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone (253 mg, 0.68 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with 5% sodium bicarbonate solution followed by brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was recrystallized from a mixture of EtOAc and ether to afford 130 mg (41.1% yield) of 4-Ethynyl-N-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-benzamide. LCMS Purity: 87.29%. 1H NMR (DMSO-d6): δ 8.7 (m, 1H), 8.0-7.8 (m, 3H), 7.6-7.4 (m, 4H), 4.4 (s, 1H), 4.2-4.1 (m, 2H), 3.8-3.4 (m, 3H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 2.04 mmol, 0.34 mL, 263.67 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Ethynyl-benzoic acid | 0.68 mmol, 100 mg | C(#C)C1=CC=C(C(=O)O)C=C1 | C9H6O2
reactant | HOBT | 0.68 mmol, 92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.81 mmol, 156.42 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | 0.68 mmol, 253 mg | NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O | C14H15F4N3O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Ethynyl-N-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-benzamide | 130 mg, 41.1% yield | C(#C)C1=CC=C(C(=O)NCC(=O)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C=C1 | C23H19F4N3O3
